US04140790
3-(4-Allyl-piperazin-1-yl)-1-hydroxy-propane, prepared as described in Example 2, Step A, is reacted with xanthene-9-carbonyl chloride as described in Example 1, Step B. 3-(4-Allyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane dihydrochloride is obtained with a yield of 76%; m.p.: 209°-211° C.

reactant | 3-(4-Allyl-piperazin-1-yl)-1-hydroxy-propane | C(C=C)N1CCN(CC1)CCCO | C10H20N2O
reactant | xanthene-9-carbonyl chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 3-(4-Allyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane dihydrochloride | yield of 76% | Cl.Cl.C(C=C)N1CCN(CC1)CCCOC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C24H28N2O3.2ClH/c1-2-12-25-14-16-26(17-15-25)13-7-18-28-24(27)23-19-8-3-5-10-21(19)29-22-11-6-4-9-20(22)23;;/h2-6,8-11,23H,1,7,12-18H2;2*1H
